### PR TITLE
Comonoids, duality, and related displayed tech

### PR DESCRIPTION
**Pull request by jajaperson**
Let me know if you want me to refactor the commit history a bit, but I imagine you will want to squash merge this one. One point worth discussing: 8847e3a makes `Cat.Displayed.Path` depend on `Cat.Displayed.Functor.Equivalence`. I think maybe most invocations of the former throughout the codebase should be changed to give displayed isomorphisms rather than `PathP`s of displayed categories anyway.

# Description

This PR works up proving $\mathrm{Mon}(\mathcal C^\mathrm{op})^\mathrm{op}$ and $\mathrm{Comon}(\mathcal C)$ are equivalent as displayed categories. This has involved defining a lot of displayed machinery.

- [x] Comonoids
- [x] Total functor of displayed functor
- [x] Total natural transformation of displayed NT
- [x] Total adjunction of displayed adjunction
- [x] Sigma displayed category from Ahrens and Lumsdaine (2017)[^1] just for fun
- [x] Displayed category of displayed functors
- [x] Displayed equivalence
- [x] Total equivalence of displayed equivalence
- [x] Displayed equivalence of $\mathrm{Mon}(\mathcal C^\mathrm{op})^\mathrm{op}$ and $\mathrm{Comon}(\mathcal C)$

[^1]: Ahrens, Benedikt, and Peter LeFanu Lumsdaine. 2017. “Displayed Categories.” In _2nd International Conference on Formal Structures for Computation and Deduction (FSCD 2017)_, edited by Dale Miller, vol. 84. Leibniz International Proceedings in Informatics (LIPIcs). Schloss Dagstuhl – Leibniz-Zentrum für Informatik. [https://doi.org/10.4230/LIPIcs.FSCD.2017.5](https://doi.org/10.4230/LIPIcs.FSCD.2017.5).

## Checklist

Before submitting a merge request, please check the items below:

- [x] I've read [the contributing guidelines](https://github.com/plt-amy/1lab/blob/main/CONTRIBUTING.md).
- [x] The imports of new modules have been sorted with `support/sort-imports.hs` (or `nix run --experimental-features nix-command -f . sort-imports`).
- [x] All new code blocks have "agda" as their language.

If your change affects many files without adding substantial content, and
you don't want your name to appear on those pages (for example, treewide
refactorings or reformattings), start the commit message and PR title with `chore:`.

### CODE REVIEW

**Comment by Lavenza** [comment]
[Pull request preview](https://preview.1lab.dev/584)
##### New pages

  * [Cat.Displayed.Functor.Equivalence](https://preview.1lab.dev/584/Cat.Displayed.Functor.Equivalence.html) (+524, -0)
  * [Cat.Displayed.Functor.Properties](https://preview.1lab.dev/584/Cat.Displayed.Functor.Properties.html) (+195, -0)
  * [Cat.Displayed.Functor.Equivalence.Total](https://preview.1lab.dev/584/Cat.Displayed.Functor.Equivalence.Total.html) (+194, -0)
  * [Cat.Displayed.Functor.Naturality](https://preview.1lab.dev/584/Cat.Displayed.Functor.Naturality.html) (+192, -0)
  * [Cat.Displayed.Functor.Total](https://preview.1lab.dev/584/Cat.Displayed.Functor.Total.html) (+180, -0)
  * [Cat.Displayed.Instances.Functor](https://preview.1lab.dev/584/Cat.Displayed.Instances.Functor.html) (+115, -0)
  * [Cat.Displayed.Functor.Adjoint.Total](https://preview.1lab.dev/584/Cat.Displayed.Functor.Adjoint.Total.html) (+99, -0)
  * [Cat.Displayed.Functor.Properties.Total](https://preview.1lab.dev/584/Cat.Displayed.Functor.Properties.Total.html) (+68, -0)
  * [Cat.Displayed.Instances.Sigma](https://preview.1lab.dev/584/Cat.Displayed.Instances.Sigma.html) (+63, -0)
  * [Cat.Duality](https://preview.1lab.dev/584/Cat.Duality.html) (+62, -0)
##### Changed pages

  * [Cat.Displayed.Functor](https://preview.1lab.dev/584/Cat.Displayed.Functor.html) (+115, -16)
  * [Cat.Displayed.Morphism](https://preview.1lab.dev/584/Cat.Displayed.Morphism.html) (+92, -10)
  * [1Lab.Equiv](https://preview.1lab.dev/584/1Lab.Equiv.html) (+29, -19)
  * [Cat.Base](https://preview.1lab.dev/584/Cat.Base.html) (+16, -17)
  * [Cat.Displayed.Path](https://preview.1lab.dev/584/Cat.Displayed.Path.html) (+12, -13)
  * [Cat.Displayed.Functor.Adjoint](https://preview.1lab.dev/584/Cat.Displayed.Functor.Adjoint.html) (+15, -5)
  * [Cat.Displayed.Reasoning](https://preview.1lab.dev/584/Cat.Displayed.Reasoning.html) (+18, -2)
  * [1Lab.Path](https://preview.1lab.dev/584/1Lab.Path.html) (+9, -6)
  * [Cat.Displayed.Total](https://preview.1lab.dev/584/Cat.Displayed.Total.html) (+13, -2)
  * [Cat.Bi.Instances.Displayed](https://preview.1lab.dev/584/Cat.Bi.Instances.Displayed.html) (± 6)
  * [Cat.Functor.Base](https://preview.1lab.dev/584/Cat.Functor.Base.html) (+4, -6)

File: src/Cat/Displayed/Instances/Sigma.lagda.md [hunk 1]
```diff
@@ -0,0 +1,63 @@
...
+private
+  module ℰ = Displayed ℰ
+  module ∫ℰ = Precategory (∫ ℰ)
+  module ℱ = Displayed ℱ
+```
+-->
+
+# Displayed Σ-category
+
+Displayed categories capture the esence of adding structure to some base
```
Comment (ncfavier) [inline src/Cat/Displayed/Instances/Sigma.lagda.md]:
```suggestion
Displayed categories capture the essence of adding structure to some base
```

File: src/Cat/Monoidal/Diagram/Comonoid.lagda.md [hunk 2]
```diff
@@ -0,0 +1,136 @@
...
+  open Displayed
+  open Functor
+  open is-comonoid-hom
+```
+-->
+
+```agda
+  Comon[_] : Displayed C ℓ ℓ
+  Comon[_] = with-thin-display record where
+    Ob[_] = (Comonoid-on Cᵐ)
```
Comment (ncfavier) [inline src/Cat/Monoidal/Diagram/Comonoid.lagda.md]:
```suggestion
    Ob[_] = Comonoid-on Cᵐ
```

File: src/Cat/Monoidal/Diagram/Monoid/Duality.lagda.md [hunk 3]
```diff
@@ -0,0 +1,141 @@
...
+The duality of [monoids] and [comonoids] in a [[monoidal category]]
+$\cC$ is manifested by an [[isomorphism of displayed precategories]]
+$\rm{Comon}(\cC\op) \cong \rm{Mon}(\cC\op)\op$.
+
+[monoids]: Cat.Monoidal.Diagram.Monoid.html
+[comonoids]: Cat.Monoidal.Diagram.Comonoid.html
+
+Our first step is to show that for any $x \in \cC$, the structure of a
+`Monoid-object-on`{.Agda} $x$ in $\cC\op$ is the same as the structure
+of a `Comonoid-object-on`{.Agda} $x$ in the category $\cC\op$.
```
Comment (ncfavier) [inline src/Cat/Monoidal/Diagram/Monoid/Duality.lagda.md]:
```suggestion
of a `Comonoid-object-on`{.Agda} $x$ in the category $\cC$.
```

File: src/Cat/Displayed/Instances/Functor.lagda.md [hunk 4]
```diff
@@ -0,0 +1,127 @@
...
+open _=>_
+open _=[_]=>_
+open Functor
+open Displayed-functor
+```
+-->
+
+# Displayed functor (pre)categories {defines="displayed-functor-category"}
+
+Just as the [functors] between precategories $\cC$ and $\cD$ form
```
Comment (ncfavier) [inline src/Cat/Displayed/Instances/Functor.lagda.md]:
```suggestion
Just as the [functors] between precategories $\cA$ and $\cB$ form
```

File: src/Cat/Displayed/Instances/Functor.lagda.md [hunk 5]
```diff
@@ -0,0 +1,127 @@
...
+  _∘nt'_ {G' = G'} {H' = H'} {F' = F'} {α = α} {β = β} α' β' 
+    .is-natural' {x} {y} {f} x' y' f' = ℱ.begin[]
+      (α' .η' y' ℱ.∘' β' .η' y') ℱ.∘' F₁' F' f' ℱ.≡[]⟨ ℱ.pullr[] (β .is-natural x y f) (is-natural' β' x' y' f') ⟩
+      α' .η' y' ℱ.∘' ₁' G' f' ℱ.∘' β' .η' x'    ℱ.≡[]⟨ ℱ.extendl[] (α .is-natural x y f) (is-natural' α' x' y' f') ⟩
+      ₁' H' f' ℱ.∘' α' .η' x' ℱ.∘' β' .η' x'    ℱ.∎[]
+```
+
+We then define the displayed category $[\cE, \cF]$ over $[\cA, \cB]$ so
+that a displayed functor over $F$ is an object over $F$, and a displayed
+natural transformation over $η$ is a morphism over $η$.
```
Comment (ncfavier) [inline src/Cat/Displayed/Instances/Functor.lagda.md:78]: Maybe phrase this the other way around? "an object over $F$ is ..."

File: src/Cat/Natural/Whiskering.lagda.md
Comment (ncfavier) [inline src/Cat/Natural/Whiskering.lagda.md:1]: Isn't this module redundant with `Cat.Functor.Compose`? Whiskerings are defined in there.

File: src/Cat/Displayed/Functor/Total.lagda.md [hunk 6]
```diff
@@ -0,0 +1,180 @@
...
+      ∫𝒢.id ∫𝒢.∘ ₁ (∫ᶠ (F' F∘' G')) f ∎
+```
+
+## Total natural transformations {defines="total-natural-transformation"}
+
+Suppose we have an additional [[displayed functor]] $G' : \cE \to \cF$
+over $G : \cA \to \cB$, and a [[displayed natural transformation]]
+$\eta' : F' \To G'$ over $\eta : F \To G$. We can then similarly recover
+an ordinary [[natural transformation]] $\int \eta : \int F \To \int G$ 
+between [[total functor|total functors]]:
```
Comment (ncfavier) [inline src/Cat/Displayed/Functor/Total.lagda.md]:
```suggestion
between [[total functors]]:
```

The part before the pipe is the displayed text, but plurals are recognised automatically.

File: src/Cat/Displayed/Functor/Properties.lagda.md [hunk 7]
```diff
@@ -0,0 +1,196 @@
...
+  η[] {f = f} f' = ℰ.to-pathp[]⁻ $
+    F₁'.from (ℱ.hom[ ⌜ F₁.ε (F.₁ f) ⌝ ]⁻ (F'.₁' f'))  ≡˘⟨ ap¡ (F₁.zig f) ⟩
+    F₁'.from (ℱ.hom[ ap F.₁ (F₁.η f) ]⁻ (F'.₁' f'))   ≡˘⟨ ℰ.hom[]-is-subst _ _ ∙∙ (subst-fibrewise (λ g → F₁'.from {f = g}) (sym (F₁.η f)) (F'.₁' f')) ∙∙ sym (ap F₁'.from (ℱ.hom[]-is-subst _ _)) ⟩
+    ℰ.hom[ F₁.η f ]⁻ ⌜ F₁'.from (F'.₁' f') ⌝          ≡⟨ ap! (F₁'.η f') ⟩
+    ℰ.hom[ F₁.η f ]⁻ f'                               ∎
+```
+
+## Essential fibres {defines="essentially-split-surjective-over"}
+
+One way to generalize [[essential fibres|essential fibre]] is as
```
Comment (ncfavier) [inline src/Cat/Displayed/Functor/Properties.lagda.md]:
```suggestion
One way to generalize [[essential fibres]] is as
```

File: src/Cat/Displayed/Functor/Total.lagda.md [hunk 8]
```diff
@@ -0,0 +1,180 @@
...
+```
+-->
+
+```agda
+module Cat.Displayed.Functor.Total where
+```
+
+# Total functor {defines="total-functor"}
+
+Given [[displayed categories|displayed category]] $\cE \liesover \cA$ and
```
Comment (ncfavier) [inline src/Cat/Displayed/Functor/Total.lagda.md]:
```suggestion
Given [[displayed categories]] $\cE \liesover \cA$ and 
```

File: src/Cat/Displayed/Functor/Total.lagda.md [hunk 9]
```diff
@@ -0,0 +1,180 @@
...
+```agda
+module Cat.Displayed.Functor.Total where
+```
+
+# Total functor {defines="total-functor"}
+
+Given [[displayed categories|displayed category]] $\cE \liesover \cA$ and 
+$\cF \liesover \cB$, and a [[displayed functor]] $F' : \cE \to \cF$ over 
+$F : \cA \to \cB$, we can recover an ordinary [[functor]] 
+$\int F : \int \cE \to \int \cF$ between [[total categories|total category]]:
```
Comment (ncfavier) [inline src/Cat/Displayed/Functor/Total.lagda.md]:
```suggestion
$\int F : \int \cE \to \int \cF$ between [[total categories]]:
```

File: src/Cat/Displayed/Instances/Functor.lagda.md [hunk 10]
```diff
@@ -0,0 +1,127 @@
...
+-->
+
+# Displayed functor (pre)categories {defines="displayed-functor-category"}
+
+Just as the [functors] between precategories $\cC$ and $\cD$ form
+a precategory $[\cA , \cB]$, the [[displayed functors|displayed functor]] 
+between [[displayed precategories|displayed precategory]] $\cE$ and $\cF$ 
+over $\cA$ and $\cB$ form a [[displayed precategory]] $[\cE, \cF]$ over
+$[\cA, \cB]$, with [[displayed natural transformations|displayed natural
+transformations]] as morphisms. The construction is analogous to the
```
Comment (ncfavier) [inline src/Cat/Displayed/Instances/Functor.lagda.md]:
```suggestion
a precategory $[\cA , \cB]$, the [[displayed functors]] 
between [[displayed precategories]] $\cE$ and $\cF$ 
over $\cA$ and $\cB$ form a [[displayed precategory]] $[\cE, \cF]$ over
$[\cA, \cB]$, with [[displayed natural transformations]] as morphisms. The construction is analogous to the 
```

File: src/Cat/Monoidal/Diagram/Monoid/Duality.lagda.md [hunk 11]
```diff
@@ -0,0 +1,141 @@
...
+  (hlevel 1) (hlevel 1)
+  (Monᵒᵖ→Comon.₁')
+  λ fᶜ → record
+    { pres-η = fᶜ .is-comonoid-hom.pres-ε
+    ; pres-μ = fᶜ .is-comonoid-hom.pres-Δ ∙ (C.-⊗-.lrmap _ _ C.⟩∘⟨refl)
+    }
+```
+
+Thus we also have a [[total isomorphism of precategories]] between the
+corresponding [[total categories|total category]].
```
Comment (ncfavier) [inline src/Cat/Monoidal/Diagram/Monoid/Duality.lagda.md]:
```suggestion
corresponding [[total categories]].
```

File: src/Cat/Displayed/Functor/Adjoint/Total.lagda.md [hunk 12]
```diff
@@ -0,0 +1,99 @@
...
+  {L⊣R : L ⊣ R} (L'⊣R' : L' ⊣[ L⊣R ] R')
+  where
+```
+
+# Total adjunction {defines="total-adjunction"}
+
+Suppose $\cE \liesover \cA$ and $\cF \liesover \cB$ are
+[[displayed categories|displayed category]], $L \dashv R : \cB \to \cA$
+are [[adjoint functors]]. A [[displayed adjunction]] $L' \dashv R : \cF \to \cE$
+induces an ordinary adjunction of the corresponding [[total functors|total functor]]
```
Comment (ncfavier) [inline src/Cat/Displayed/Functor/Adjoint/Total.lagda.md]:
```suggestion
[[displayed categories]], $L \dashv R : \cB \to \cA$
are [[adjoint functors]]. A [[displayed adjunction]] $L' \dashv R : \cF \to \cE$
induces an ordinary adjunction of the corresponding [[total functors]]
```

File: src/Cat/Displayed/Functor/Equivalence/Total.lagda.md [hunk 13]
```diff
@@ -0,0 +1,191 @@
...
+  module ∫ℰF = Cr ∫ℰF
+  ∫ℱF = Cat[ ∫ ℱ , ∫ ℱ ]
+  module ∫ℱF = Cr ∫ℱF
+```
+-->
+
+# Total equivalence {defines="total-equivalence"}
+
+Suppose $\cE \liesover \cA$ and $\cF \liesover \cB$ are [[displayed
+categories|displayed category]], $F : \cA \to \cB$ is a functor,
```
Comment (ncfavier) [inline src/Cat/Displayed/Functor/Equivalence/Total.lagda.md]:
```suggestion
Suppose $\cE \liesover \cA$ and $\cF \liesover \cB$ are [[displayed
categories]], $F : \cA \to \cB$ is a functor,
```

File: src/Cat/Displayed/Functor/Properties.lagda.md [hunk 14]
```diff
@@ -0,0 +1,196 @@
...
+
+open Functor
+open Displayed-functor
+```
+-->
+
+# Properties of displayed functors
+
+This module mirrors the corresponding one for [ordinary functors]
+by defining the corresponding classes of [[displayed functors|displayed functor]].
```
Comment (ncfavier) [inline src/Cat/Displayed/Functor/Properties.lagda.md]:
```suggestion
by defining the corresponding classes of [[displayed functors]].
```

**Review by ncfavier — COMMENTED** [review]
Good work! Could you try to rebase and clean up the commit history a bit? I don't think we want to squash everything.

**Comment by jajaperson** [comment]
@ncfavier will do. How thorough do you want the rebase? Is it enough to just squash all the fixups and combine commits when appropriate?

File: src/Cat/Displayed/Functor/Total.lagda.md (hunk 6 above)
Comment (plt-amy) [reply src/Cat/Displayed/Functor/Total.lagda.md]: (In particular, if you define `X`, then `Xs` is also added; unless it's `Xy`, in which case you get `Xies`. [It's not very clever.](https://github.com/the1lab/1lab/blob/main/support/shake/app/Definitions.hs#L122-L125))

**Comment by plt-amy** [comment]
The fixup commits have to go but I think the priority at this point is getting a clean history on top of main without merge commits so that we can actually decide whether anything else needs to be squashed (e.g. a chore that addresses something that was introduced in another commit in this same PR could as well be squashed)

File: src/Cat/Natural/Whiskering.lagda.md
Comment (jajaperson) [reply src/Cat/Natural/Whiskering.lagda.md:1]: So it is, thanks!

File: Geo/Incidence.lagda.md
Comment (ncfavier) [inline Geo/Incidence.lagda.md:1]: I don't suppose you meant to commit these?

**Review by ncfavier — DISMISSED** [review]

File: src/Cat/Displayed/Cartesian/Discrete.lagda.md [hunk 15]
```diff
@@ -432,7 +433,7 @@ is immediate.
 
 ```agda
     ∫≡dx : ∫ B (discrete→presheaf P p-disc) ≡ P
-    ∫≡dx = Displayed-path pieces (λ _ → id-equiv) (is-iso→is-equiv p) where
+    ∫≡dx = Displayed-path pieces $ iso[] (is-iso→is-equiv p) (λ _ → id-equiv) where
```
Comment (plt-amy) [inline src/Cat/Displayed/Cartesian/Discrete.lagda.md]: just for what it's worth the last parens here are redundant and you can write `iso[] (is-iso→is-equiv p) λ _ → id-equiv`

File: src/Cat/Displayed/Functor/Adjoint/Total.lagda.md [hunk 16]
```diff
@@ -0,0 +1,99 @@
...
+  {L' : Displayed-functor L ℰ ℱ} {R' : Displayed-functor R ℱ ℰ}
+  {L⊣R : L ⊣ R} (L'⊣R' : L' ⊣[ L⊣R ] R')
+  where
+```
+
+# Total adjunction {defines="total-adjunction"}
+
+Suppose $\cE \liesover \cA$ and $\cF \liesover \cB$ are [[displayed
+categories]], $L \dashv R : \cB \to \cA$ are [[adjoint functors]]. A
+[[displayed adjunction]] $L' \dashv R : \cF \to \cE$ induces an ordinary
```
Comment (plt-amy) [inline src/Cat/Displayed/Functor/Adjoint/Total.lagda.md]:
```suggestion
[[displayed adjunction]] $L' \dashv R' : \cF \to \cE$ induces an ordinary
```

right?

File: src/Cat/Displayed/Functor/Adjoint/Total.lagda.md [hunk 17]
```diff
@@ -0,0 +1,99 @@
...
+  module ∫ℱF = Cr ∫ℱF
+```
+-->
+
+In both the case of the unit and counit, we take the [[total natural
+transformation]] and compose with the natural isomorphisms `∫ᶠ∘`{.Agda}
+and `∫ᶠId'≅Id`{.Agda} to adjust the domain and codomain.
+
+```agda
+∫⊣ : (∫ᶠ L') ⊣ (∫ᶠ R')
```
Comment (plt-amy) [inline src/Cat/Displayed/Functor/Adjoint/Total.lagda.md]:
```suggestion
∫⊣ : ∫ᶠ L' ⊣ ∫ᶠ R'
```

File: src/Cat/Displayed/Functor/Adjoint/Total.lagda.md [hunk 18]
```diff
@@ -0,0 +1,99 @@
...
+∫⊣ .unit = Iso.to ∫ᶠ∘ ∫ℰF.∘ ∫ⁿ (L'⊣R'.unit') ∫ℰF.∘ Iso.from ∫ᶠId'≅Id
+∫⊣ .counit = Iso.to ∫ᶠId'≅Id ∫ℱF.∘ ∫ⁿ (L'⊣R'.counit') ∫ℱF.∘ Iso.from ∫ᶠ∘
+```
+
+The zig-zag identities follow from their displayed counterparts after
+taking care of the extra identity morphisms due to `∫ᶠ∘`{.Agda} and
+`∫ᶠId'≅Id`{.Agda}.
+
+```agda
+∫⊣ .zig {(x , x')} = ∫Hom-path ℱ
```
Comment (plt-amy) [inline src/Cat/Displayed/Functor/Adjoint/Total.lagda.md]:
```suggestion
∫⊣ .zig {x , x'} = ∫Hom-path ℱ
```

File: src/Cat/Displayed/Functor/Adjoint/Total.lagda.md [hunk 19]
```diff
@@ -0,0 +1,99 @@
...
+    L⊣R .ε (₀ L x) B.∘ ₁ L (A.id A.∘ L⊣R.η x A.∘ A.id)                    ≡⟨ ap (λ f → L⊣R.ε (F₀ L x) B.∘ ₁ L f) (A.idlr (L⊣R.η x)) ⟩
+    L⊣R .ε (₀ L x) B.∘ ₁ L (L⊣R .η x)                                     ≡⟨ L⊣R.zig ⟩
+    B.id                                                                  ∎)
+  $ ℱ.begin[]
+    (ℱ.id' ℱ.∘' L'⊣R'.counit'.ε' (₀' L' x') ℱ.∘' ℱ.id')
+      ℱ.∘' ₁' L' (ℰ.id' ℰ.∘' L'⊣R'.unit'.η' x' ℰ.∘' ℰ.id')                            ℱ.≡[]⟨ apd (λ i → ℱ._∘' ₁' L' (ℰ.id' ℰ.∘' L'⊣R'.unit'.η' x' ℰ.∘' ℰ.id')) (ℱ.idlr' (L'⊣R'.counit'.ε' (₀' L' x'))) ⟩
+    L'⊣R'.counit'.ε' (₀' L' x') ℱ.∘' ₁' L' (ℰ.id' ℰ.∘' L'⊣R'.unit'.η' x' ℰ.∘' ℰ.id')  ℱ.≡[]⟨ apd (λ i f' → L'⊣R'.counit'.ε' (₀' L' x') ℱ.∘' ₁' L' f') (ℰ.idlr' (L'⊣R'.unit'.η' x')) ⟩
+    L'⊣R'.counit'.ε' (₀' L' x') ℱ.∘' ₁' L' (L'⊣R'.unit'.η' x')                        ℱ.≡[]⟨ L'⊣R'.zig' ⟩
+    ℱ.id'                                                                             ℱ.∎[]
+∫⊣ .zag {(x , x')} = ∫Hom-path ℰ
```
Comment (plt-amy) [inline src/Cat/Displayed/Functor/Adjoint/Total.lagda.md]:
```suggestion
∫⊣ .zag {x , x'} = ∫Hom-path ℰ
```

File: src/Cat/Displayed/Functor/Equivalence/Total.lagda.md [hunk 20]
```diff
@@ -0,0 +1,190 @@
...
+    ∫ℱ.∘Iso isoⁿ→iso (∫ᶠ∘ {F' = F'} {G' = F'⁻¹} ni⁻¹) (b , b')
+```
+
+Hence the adjunction `∫F'⊣∫F'⁻¹`{.Agda} is in fact an equivalence:
+
+```agda
+  ∫⊣-is-equivalence : adjunction-is-equivalence ∫F'⊣∫F'⁻¹
+  ∫⊣-is-equivalence = record
+    { unit-iso = λ x → ∫ℰ.iso→invertible (∫η≅ x)
+    ; counit-iso = λ x → ∫ℱ.iso→invertible (∫ε≅ x)
```
Comment (plt-amy) [inline src/Cat/Displayed/Functor/Equivalence/Total.lagda.md]:
```suggestion
    { unit-iso   = λ x → ∫ℰ.iso→invertible (∫η≅ x)
    ; counit-iso = λ x → ∫ℱ.iso→invertible (∫ε≅ x)
```

File: src/Cat/Displayed/Functor/Equivalence/Total.lagda.md [hunk 21]
```diff
@@ -0,0 +1,190 @@
...
+```agda
+module _
+  {F : Functor A B} {F-is-equiv : is-equivalence F}
+  {F' : Displayed-functor F ℰ ℱ} {F'-is-equiv : is-equivalence[ F-is-equiv ] F'}
+  where
+
+  open is-equivalence[_] F'-is-equiv
+
+  ∫-is-equivalence : is-equivalence (∫ᶠ F')
+  ∫-is-equivalence = record { F⁻¹ = ∫ᶠ F'⁻¹ ; F⊣F⁻¹ = ∫⊣ F'⊣F'⁻¹ ; has-is-equivalence = ∫⊣-is-equivalence has-is-equivalence' }
```
Comment (plt-amy) [inline src/Cat/Displayed/Functor/Equivalence/Total.lagda.md]:
```suggestion
  ∫-is-equivalence = record
    { has-is-equivalence = ∫⊣-is-equivalence has-is-equivalence'
    }
```

File: src/Cat/Displayed/Functor/Equivalence.lagda.md [hunk 22]
```diff
@@ -0,0 +1,517 @@
...
+    module [ℱ,ℱ] = Dr [ℱ,ℱ]
+    module F' = Displayed-functor F'
+    module F'⁻¹ = Displayed-functor F'⁻¹
+```
+-->
+
+```agda
+  field
+    unit'-iso : ∀ {x} x' →  ℰ.is-invertible[ unit-iso x ] (unit' .η' x')
+    counit'-iso : ∀ {x} x' →  ℱ.is-invertible[ counit-iso x ] (counit' .η' x')
```
Comment (plt-amy) [inline src/Cat/Displayed/Functor/Equivalence.lagda.md]:
```suggestion
    unit'-iso   : ∀ {x} x' → ℰ.is-invertible[ unit-iso x ] (unit' .η' x')
    counit'-iso : ∀ {x} x' → ℱ.is-invertible[ counit-iso x ] (counit' .η' x')
```

File: src/Cat/Displayed/Functor/Equivalence.lagda.md [hunk 23]
```diff
@@ -0,0 +1,517 @@
...
+
+# Equivalences of displayed categories {defines="displayed-equivalence displayed-adjoint-equivalence"}
+
+Suppose $F : \cA \to \cB$ is a functor and we have an adjunction $F
+\dashv F^{-1}$ which is an [[adjoint equivalence]]. If $\cE \liesover
+\cA$ and $\cF \liesover \cB$ are [[displayed categories]], and $F' : \cE
+\to_F \cF$ is a [[displayed functor]], we say that a [[displayed
+adjunction]] $F' \dashv_{F \dashv F^{-1}} F'^{-1}$ is a **displayed
+adjoint equivalence** or **equivalence of displayed categories** if the
+unit and counit are [[displayed natural isomorphisms]].
```
Comment (plt-amy) [inline src/Cat/Displayed/Functor/Equivalence.lagda.md]:
```suggestion
Suppose $F \dashv F\inv$ are the [[adjoint]] components of an
[[equivalence|adjoint equivalence]] $F : \cA \cong \cB$, and let $\cE
\liesover \cA$ and $\cF \liesover \cB$ be [[categories displayed
over|displayed category]] its endpoints. If $F : \cE \to_F \cF$ (resp.
$F'\inv : \cF \to_{F\inv} \cE$) are [[displayed functors]] are in a
[[displayed adjunction]] $F' \dashv F'\inv$, we say it is a **displayed
adjoint equivalence**, or simply **equivalence of displayed
categories**, if its unit and counit maps are [[displayed natural
isomorphisms]].
```

File: src/Cat/Displayed/Functor/Equivalence.lagda.md [hunk 24]
```diff
@@ -0,0 +1,517 @@
...
+<summary>Construction of `F'⁻¹⊣F'`{.Agda} and `inverse-equivalence'`{.Agda}</summary>
+```agda
+  F'⁻¹⊣F' ._⊣[_]_.unit' = counit'⁻¹
+  F'⁻¹⊣F' ._⊣[_]_.counit' = unit'⁻¹
+  F'⁻¹⊣F' ._⊣[_]_.zig' {b} {b'} = z' where
+    z' : unit'⁻¹ .η' (F'⁻¹.₀' b') ℰ.∘' F'⁻¹.₁' (counit'⁻¹ .η' b')
+      ℰ.≡[ _⊣_.zig F⁻¹⊣F ] ℰ.id'
+    z' = ℰ.cast[] $ ℰ.inverse-unique₀'
+      ((F'-map-iso F'⁻¹ (isoⁿ[]→iso[] F'∘F'⁻¹≅Id' b'))
+        ℰ.∘Iso' isoⁿ[]→iso[] Id'≅F'⁻¹∘'F' (F'⁻¹.₀' b'))
```
Comment (plt-amy) [inline src/Cat/Displayed/Functor/Equivalence.lagda.md]:
```suggestion
      (F'-map-iso F'⁻¹ (isoⁿ[]→iso[] F'∘F'⁻¹≅Id' b')
        ℰ.∘Iso' isoⁿ[]→iso[] Id'≅F'⁻¹∘'F' (F'⁻¹.₀' b'))
```

File: src/Cat/Displayed/Functor/Equivalence.lagda.md [hunk 25]
```diff
@@ -0,0 +1,517 @@
...
+
+whence we have
+
+```agda
+  inverse-is-equivalence' : adjunction-is-equivalence[ inverse-is-equivalence ] F'⁻¹⊣F'
+```
+
+<details>
+<summary>Construction of `F'⁻¹⊣F'`{.Agda} and `inverse-equivalence'`{.Agda}</summary>
+```agda
```
Comment (plt-amy) [inline src/Cat/Displayed/Functor/Equivalence.lagda.md:119]:
```suggestion
<details>
<summary>Construction of `F'⁻¹⊣F'`{.Agda} and `inverse-equivalence'`{.Agda}.</summary>

```agda
```

File: src/Cat/Displayed/Functor/Equivalence.lagda.md [hunk 26]
```diff
@@ -0,0 +1,517 @@
...
+    z' = ℱ.cast[] $ ℱ.inverse-unique₀'
+      (isoⁿ[]→iso[] F'∘F'⁻¹≅Id' (F'.₀' a')
+        ℱ.∘Iso' F'-map-iso F' (isoⁿ[]→iso[] Id'≅F'⁻¹∘'F' a'))
+      ℱ.id-iso↓ zig'
+
+  inverse-is-equivalence' = record
+    { unit'-iso = λ x' → ℱ.is-invertible[]-inverse (counit'-iso x')
+    ; counit'-iso = λ x' → ℰ.is-invertible[]-inverse (unit'-iso x') }
+```
+</details>
```
Comment (plt-amy) [inline src/Cat/Displayed/Functor/Equivalence.lagda.md:143]:
````suggestion
```

</details>
````

File: src/Cat/Displayed/Functor/Equivalence.lagda.md [hunk 27]
```diff
@@ -0,0 +1,517 @@
...
+    z' : F'.₁' (unit'⁻¹ .η' a') ℱ.∘' counit'⁻¹ .η' (F'.₀' a')
+      ℱ.≡[ _⊣_.zag F⁻¹⊣F ] ℱ.id'
+    z' = ℱ.cast[] $ ℱ.inverse-unique₀'
+      (isoⁿ[]→iso[] F'∘F'⁻¹≅Id' (F'.₀' a')
+        ℱ.∘Iso' F'-map-iso F' (isoⁿ[]→iso[] Id'≅F'⁻¹∘'F' a'))
+      ℱ.id-iso↓ zig'
+
+  inverse-is-equivalence' = record
+    { unit'-iso = λ x' → ℱ.is-invertible[]-inverse (counit'-iso x')
+    ; counit'-iso = λ x' → ℰ.is-invertible[]-inverse (unit'-iso x') }
```
Comment (plt-amy) [inline src/Cat/Displayed/Functor/Equivalence.lagda.md]:
```suggestion
    { unit'-iso   = λ x' → ℱ.is-invertible[]-inverse (counit'-iso x')
    ; counit'-iso = λ x' → ℰ.is-invertible[]-inverse (unit'-iso x') }
```

File: src/Cat/Displayed/Functor/Equivalence.lagda.md [hunk 28]
```diff
@@ -0,0 +1,517 @@
...
+        ffx' = f*x'-iso .ℱ.from'
+        ftx' = f*x'-iso .ℱ.to'
+```
+
+<details>
+<summary>Defining the displayed unit, counit, and associated identities
+are all given by straightforward (if tedious) adaptions of those for
+`ff+split-eso→is-equivalence`{.Agda}, and are given without commentary.
+</summary>
+```agda
```
Comment (plt-amy) [inline src/Cat/Displayed/Functor/Equivalence.lagda.md:284]:
````suggestion
<details>
<summary>Defining the displayed unit, counit, and associated identities
are all given by straightforward (if tedious) adaptions of those for
`ff+split-eso→is-equivalence`{.Agda}, and are given without commentary.
</summary>

```agda
````

File: src/Cat/Displayed/Functor/Equivalence.lagda.md [hunk 29]
```diff
@@ -0,0 +1,517 @@
...
+        module f*x'-iso = ℱ._≅[_]_ f*x'-iso
+        ftx' = f*x'-iso.to'
+        ffx' = f*x'-iso.from'
+
+    counit'-iso : ∀ {x} x' → ℱ.is-invertible[ counit-iso x ] (counit' .η' x')
+    counit'-iso x' = record { f*x'-iso } where
+      open Σ (eso' x') renaming (fst to f*x' ; snd to f*x'-iso)
+      module f*x'-iso = ℱ._≅[_]_ f*x'-iso
+```
+</details>
```
Comment (plt-amy) [inline src/Cat/Displayed/Functor/Equivalence.lagda.md:403]:
````suggestion
```

</details>
````

In general please leave a blank line between embedded block-level HTML and Markdown blocks

File: src/Cat/Displayed/Functor/Equivalence.lagda.md [hunk 30]
```diff
@@ -0,0 +1,517 @@
...
+To summarise, from the data of `ff'`{.Agda}, and `eso'`{.Agda} we are
+able to construct a displayed equivalence of categories:
+
+```agda
+  open ff[ff]+split-eso[]→is-equivalence[]
+
+  ff[ff]+split-eso[]→is-equivalence[] : is-equivalence[ F-is-equiv ] F'
+  ff[ff]+split-eso[]→is-equivalence[] = record
+    { F'⁻¹ = F'⁻¹
+    ; F'⊣F'⁻¹ = F'⊣F'⁻¹
```
Comment (plt-amy) [inline src/Cat/Displayed/Functor/Equivalence.lagda.md]:
```suggestion
    { F'⊣F'⁻¹ = F'⊣F'⁻¹
```

File: src/Cat/Displayed/Functor/Equivalence.lagda.md [hunk 31]
```diff
@@ -0,0 +1,517 @@
...
+    module ℰ = Dr ℰ
+    module F = Functor F
+    module F' = Displayed-functor F'
+```
+-->
+
+```agda
+  field
+    has-is-ff' : is-ff[] F'
+    has-is-iso' : ∀ x → is-equiv {A = ℰ.Ob[ x ]} F'.₀'
```
Comment (plt-amy) [inline src/Cat/Displayed/Functor/Equivalence.lagda.md]:
```suggestion
    has-is-ff'  : is-ff[] F'
    has-is-iso' : ∀ x → is-equiv {A = ℰ.Ob[ x ]} F'.₀'
```

File: src/Cat/Displayed/Functor/Naturality.lagda.md [hunk 32]
```diff
@@ -0,0 +1,197 @@
...
+    : Type (oa ⊔ ℓa ⊔ oe ⊔ ℓe ⊔ ℓf) where
+    no-eta-equality
+
+    private
+      module α = _=>_ (α .to)
+      module α⁻¹ = _=>_ (α .from)
+
+    field
+      eta' : ∀ {x} (x' : ℰ.Ob[ x ]) → ℱ.Hom[ α.η x ] (₀' F' x') (₀' G' x')
+      inv' : ∀ {x} (x' : ℰ.Ob[ x ]) → ℱ.Hom[ (α⁻¹.η x) ] (₀' G' x') (₀' F' x')
```
Comment (plt-amy) [inline src/Cat/Displayed/Functor/Naturality.lagda.md]:
```suggestion
      inv' : ∀ {x} (x' : ℰ.Ob[ x ]) → ℱ.Hom[ α⁻¹.η x ] (₀' G' x') (₀' F' x')
```

File: src/Cat/Displayed/Functor/Naturality.lagda.md [hunk 33]
```diff
@@ -0,0 +1,197 @@
...
+        ; invr' = Nat'-path (mk .inv'∘'eta') } }
+```
+
+We also give the following helper functions:
+
+```agda
+  isoⁿ[]→iso[]
+    : ∀ {α} {F' : Displayed-functor F ℰ ℱ} {G' : Displayed-functor G ℰ ℱ}
+    → F' ≅ⁿ[ α ] G'
+    → ∀ {a} (a' : ℰ.Ob[ a ]) → ₀' F' a' ℱ.≅[ (isoⁿ→iso α a) ] ₀' G' a'
```
Comment (plt-amy) [inline src/Cat/Displayed/Functor/Naturality.lagda.md]:
```suggestion
    → ∀ {a} (a' : ℰ.Ob[ a ]) → ₀' F' a' ℱ.≅[ isoⁿ→iso α a ] ₀' G' a'
```

File: src/Cat/Displayed/Functor/Properties.lagda.md [hunk 34]
```diff
@@ -0,0 +1,195 @@
...
+
+## Fully faithfully displayed functors {defines="fully-faithfully-displayed-functor fully-faithfully-displayed"}
+
+A displayed functor is **fully faithfully displayed** when its action on
+hom-sets _over_ any morphism is an equivalence.
+
+```agda
+  is-ff[] : Type _
+  is-ff[] = ∀ {x y f} {x' : ℰ.Ob[ x ]} {y' : ℰ.Ob[ y ]}
+    →  is-equiv {A = ℰ.Hom[ f ] x' y'} (₁' F')
```
Comment (plt-amy) [inline src/Cat/Displayed/Functor/Properties.lagda.md]:
```suggestion
    → is-equiv {A = ℰ.Hom[ f ] x' y'} (₁' F')
```

File: src/Cat/Displayed/Instances/Functor.lagda.md [hunk 35]
```diff
@@ -0,0 +1,125 @@
...
+  (ℰ : Displayed A oe ℓe) (ℱ : Displayed B of ℓf)
+  where
+
+  private
+    variable
+      F G H : Functor A B
+      F' : Displayed-functor F ℰ ℱ
+      G' : Displayed-functor G ℰ ℱ
+      H' : Displayed-functor H ℰ ℱ
+
```
Comment (plt-amy) [inline src/Cat/Displayed/Instances/Functor.lagda.md]: these are all redundant right?

File: src/Cat/Displayed/Functor/Naturality.lagda.md [hunk 36]
```diff
@@ -0,0 +1,197 @@
...
+  {oa ℓa ob ℓb oe ℓe of ℓf}
+  {A : Precategory oa ℓa} {B : Precategory ob ℓb}
+  {ℰ : Displayed A oe ℓe} {ℱ : Displayed B of ℓf}
+  where
+  private
+    [ℰ,ℱ] = DisCat[ ℰ , ℱ ]
+    module B = Cr B
+    module ℰ where
+      open Dr ℰ public
+      open Dm ℰ public
```
Comment (plt-amy) [inline src/Cat/Displayed/Functor/Naturality.lagda.md]: use your `Cat.Displayed.Morphism.Reasoning`?

File: src/Cat/Displayed/Morphism/Reasoning.agda [hunk 37]
```diff
@@ -0,0 +1,13 @@
...
+open import Cat.Base
+
+import Cat.Displayed.Reasoning as Dr
+import Cat.Displayed.Morphism as Dm
+
+module Cat.Displayed.Morphism.Reasoning
+  {oa ℓa oe ℓe} {A : Precategory oa ℓa} (ℰ : Displayed A oe ℓe)
+  where
+  open Dr ℰ public
+  open Dm ℰ public
```
Comment (plt-amy) [inline src/Cat/Displayed/Morphism/Reasoning.agda]:
```suggestion
open Dr ℰ public
open Dm ℰ public
```

File: src/Cat/Displayed/Functor.lagda.md [hunk 38]
```diff
@@ -307,6 +308,43 @@ The identity functor is obviously fibred.
...
+module _
+  {oa ℓa ob ℓb oe ℓe of ℓf}
+  {A : Precategory oa ℓa} {B : Precategory ob ℓb} {F : Functor A B}
+  {ℰ : Displayed A oe ℓe} {ℱ : Displayed B of ℓf} (F' : Displayed-functor F ℰ ℱ)
+  where
+  private
+    module A = CR A
+    module ℰ where
+      open DM ℰ public
+      open DR ℰ public
```
Comment (plt-amy) [inline src/Cat/Displayed/Functor.lagda.md]: ditto `Cat.Displayed.Morphism.Reasoning`

File: src/Cat/Displayed/Functor.lagda.md [hunk 39]
```diff
@@ -498,6 +539,76 @@ module
         → η' y' ℱ.∘' F' .F₁' f' ℱ.≡[ α .is-natural x y f ] G' .F₁' f' ℱ.∘' η' x'
 ```
 
+<details>
+<summary>We can also define `is-natural-transformation[_]`{.Agda} as a
+proprty of families of morphisms displayed over a family of morphisms
```
Comment (plt-amy) [inline src/Cat/Displayed/Functor.lagda.md]: property

File: src/Cat/Displayed/Functor.lagda.md [hunk 40]
```diff
@@ -498,6 +539,76 @@ module
...
+             → {F₂' : Displayed-functor F₂ ℰ ℱ}
+             → {G₂' : Displayed-functor G₂ ℰ ℱ}
+             → {α : F₁ => G₁} {β : F₂ => G₂}
+             → {α' : F₁' =[ α ]=> G₁'} {β' : F₂' =[ β ]=> G₂'}
+             → (p : F₁ ≡ F₂) (q : G₁ ≡ G₂)
+             → (r : PathP (λ i → p i => q i) α β)
+             → (p' : PathP (λ i → Displayed-functor (p i) ℰ ℱ) F₁' F₂')
+             → (q' : PathP (λ i → Displayed-functor (q i) ℰ ℱ) G₁' G₂')
+             → (∀ {x} (x' : ℰ.Ob[ x ]) → PathP (λ i → ℱ.Hom[ (r i .η x) ] (p' i .F₀' x') (q' i .F₀' x')) (α' .η' x') (β' .η' x'))
+             → PathP (λ i → (p' i) =[ r i ]=> (q' i)) α' β'
```
Comment (plt-amy) [inline src/Cat/Displayed/Functor.lagda.md]:
```suggestion
  Nat'-pathp
    : ∀ {F₁ F₂ G₁ G₂ α β}
    → {F₁' : Displayed-functor F₁ ℰ ℱ} {G₁' : Displayed-functor G₁ ℰ ℱ}
    → {F₂' : Displayed-functor F₂ ℰ ℱ} {G₂' : Displayed-functor G₂ ℰ ℱ}
    → {α' : F₁' =[ α ]=> G₁'} {β' : F₂' =[ β ]=> G₂'}
    → (p : F₁ ≡ F₂) (q : G₁ ≡ G₂)
    → (r : PathP (λ i → p i => q i) α β)
    → (p' : PathP (λ i → Displayed-functor (p i) ℰ ℱ) F₁' F₂')
    → (q' : PathP (λ i → Displayed-functor (q i) ℰ ℱ) G₁' G₂')
    → (∀ {x} (x' : ℰ.Ob[ x ]) → PathP (λ i → ℱ.Hom[ r i .η x ] (p' i .F₀' x') (q' i .F₀' x')) (α' .η' x') (β' .η' x'))
    → PathP (λ i → p' i =[ r i ]=> q' i) α' β'
```
also lord in heaven that sure is a type signature

File: src/Cat/Displayed/Functor.lagda.md [hunk 41]
```diff
@@ -498,6 +539,76 @@ module
...
+  Nat'-pathp p q r p' q' w i .η' x' = w x' i
+  Nat'-pathp {α' = α'} {β' = β'} p q r p' q' w i .is-natural' {x = x} {y} {f} x' y' f' j =
+    is-set→squarep {A = λ i j → ℱ.Hom[ r i .is-natural x y f j ] (F₀' (p' i) x') (F₀' (q' i) y')} (λ _ _ → hlevel 2)
+      (λ i → w y' i ℱ.∘' F₁' (p' i) f') (λ j → is-natural' α' x' y' f' j) (λ j → is-natural' β' x' y' f' j) (λ i → F₁' (q' i) f' ℱ.∘' w x' i) i j
+
+  Nat'-path : {F G : Functor A B} {F' : Displayed-functor F ℰ ℱ} {G' : Displayed-functor G ℰ ℱ}
+           → {α β : F => G} {α' : F' =[ α ]=> G'} {β' : F' =[ β ]=> G'}
+           → {p : α ≡ β}
+           → (∀ {x} (x' : ℰ.Ob[ x ]) → α' .η' x' ℱ.≡[ p ηₚ x ] β' .η' x')
+           → PathP (λ i → F' =[ p i ]=> G') α' β'
```
Comment (plt-amy) [inline src/Cat/Displayed/Functor.lagda.md]:
```suggestion
  Nat'-path
    : ∀ {F G α β} {F' : Displayed-functor F ℰ ℱ} {G' : Displayed-functor G ℰ ℱ}
    → {α' : F' =[ α ]=> G'} {β' : F' =[ β ]=> G'} {p : α ≡ β}
    → (∀ {x} (x' : ℰ.Ob[ x ]) → α' .η' x' ℱ.≡[ p ηₚ x ] β' .η' x')
    → PathP (λ i → F' =[ p i ]=> G') α' β'
```

File: src/Cat/Displayed/Morphism.lagda.md [hunk 42]
```diff
@@ -656,6 +722,22 @@ iso[]→from-has-retract[] f' .retract' = f' .to'
...
+```agda
+abstract
+  inverse-unique₀'
+    : ∀ {x b} {f g : x ≅ b} {r : f .to ≡ g .to}
+      {x' : Ob[ x ]} {b' : Ob[ b ]} (f' : x' ≅[ f ] b') (g' : x' ≅[ g ] b')
+      (r' : f' .to' ≡[ r ] g' .to')
+    → f' .from' ≡[ inverse-unique₀ f g r ] g' .from'
+  inverse-unique₀' f' g' r' = begin[]
+    f' .from'                           ≡[]˘⟨ apd (λ _ → f' .from' ∘'_) (g' .invl') ∙[] idr' _ ⟩
+    f' .from' ∘'  g' .to' ∘' g' .from'   ≡[]⟨ assoc' (f' .from') (g' .to') (g' .from') ⟩
```
Comment (plt-amy) [inline src/Cat/Displayed/Morphism.lagda.md]:
```suggestion
    f' .from' ∘'  g' .to' ∘' g' .from'  ≡[]⟨ assoc' (f' .from') (g' .to') (g' .from') ⟩
```

File: src/Cat/Displayed/Instances/Functor.lagda.md [hunk 43]
```diff
@@ -0,0 +1,125 @@
...
+  DisCat[_,_] .Hom[_] α F' G' = F' =[ α ]=> G'
+  DisCat[_,_] .Hom[_]-set α F' G' = hlevel 2
+
+  DisCat[_,_] .id' = idnt'
+  DisCat[_,_] ._∘'_ = _∘nt'_
+
+  DisCat[_,_] .idr' α' = Nat'-path λ x' → ℱ.idr' (η' α' x')
+  DisCat[_,_] .idl' α' = Nat'-path λ x' → ℱ.idl' (η' α' x')
+  DisCat[_,_] .assoc' α' β' γ' = Nat'-path λ x'
+    → ℱ.assoc' (η' α' x') (η' β' x') (η' γ' x')
```
Comment (plt-amy) [inline src/Cat/Displayed/Instances/Functor.lagda.md]:
```suggestion
  DisCat[_,_] .assoc' α' β' γ' = Nat'-path λ x' → 
    ℱ.assoc' (η' α' x') (η' β' x') (η' γ' x')
```
never leading arrows

File: src/Cat/Monoidal/Diagram/Monoid/Duality.lagda.md [hunk 44]
```diff
@@ -0,0 +1,141 @@
...
+open is-precat-iso[_]
+Monᵒᵖ→Comon-is-iso[] : is-precat-iso[ ^op^op-is-iso ] Monᵒᵖ→Comon
+Monᵒᵖ→Comon-is-iso[] .has-is-iso' x = On.Monᵒᵖ≃Comon .snd
+Monᵒᵖ→Comon-is-iso[] .has-is-ff' = biimp-is-equiv
+  (hlevel 1) (hlevel 1)
+  (Monᵒᵖ→Comon.₁')
+  λ fᶜ → record
+    { pres-η = fᶜ .is-comonoid-hom.pres-ε
+    ; pres-μ = fᶜ .is-comonoid-hom.pres-Δ ∙ (C.-⊗-.lrmap _ _ C.⟩∘⟨refl)
+    }
```
Comment (plt-amy) [inline src/Cat/Monoidal/Diagram/Monoid/Duality.lagda.md]:
```suggestion
Monᵒᵖ→Comon-is-iso[] .has-is-ff' = biimp-is-equiv! (Monᵒᵖ→Comon.₁') λ fᶜ → record
  { pres-η = fᶜ .is-comonoid-hom.pres-ε
  ; pres-μ = fᶜ .is-comonoid-hom.pres-Δ ∙ (C.-⊗-.lrmap _ _ C.⟩∘⟨refl)
  }
```

File: src/Cat/Monoidal/Diagram/Monoid/Duality.lagda.md [hunk 45]
```diff
@@ -0,0 +1,141 @@
...
+```
+
+Thus we also have a [[total isomorphism of precategories]] between the
+corresponding [[total categories]].
```
Comment (plt-amy) [inline src/Cat/Monoidal/Diagram/Monoid/Duality.lagda.md]: Please configure your editor to insert a final newline.

**Review by plt-amy — CHANGES_REQUESTED** [review]
There's a couple comments, like newlines at EOF and leaving spaces around HTML tags, that I only pointed out one instance of even though they occur a couple times.

Details blocks should be formatted like this, with blank lines around the html blocks:

````markdown
<details>
<summary>Words words words words (*can contain markdown*)</summary>

```agda
-- foo
```

</summary>
````

File: src/Cat/Displayed/Functor/Equivalence.lagda.md (hunk 30 above)
Comment (jajaperson) [reply src/Cat/Displayed/Functor/Equivalence.lagda.md]: A little confused about this one but I will align the `=`s

File: src/Cat/Displayed/Instances/Functor.lagda.md (hunk 43 above)
Comment (jajaperson) [reply src/Cat/Displayed/Instances/Functor.lagda.md]: leading arrows for types, trailing arrows for lambda abstractions?

File: src/Cat/Displayed/Functor.lagda.md (hunk 40 above)
Comment (jajaperson) [reply src/Cat/Displayed/Functor.lagda.md]: haha yeah i'm glad @mmcqd had this handled already

File: src/Cat/Displayed/Functor/Equivalence.lagda.md (hunk 30 above)
Comment (plt-amy) [reply src/Cat/Displayed/Functor/Equivalence.lagda.md]: You can remove the binding for the first field because it can be inferred from the type of the second

File: src/Cat/Displayed/Instances/Functor.lagda.md (hunk 43 above)
Comment (plt-amy) [reply src/Cat/Displayed/Instances/Functor.lagda.md]: That's correct

**Review by plt-amy — APPROVED** [review]

**Comment by plt-amy** [comment]
Thank you for your contributions! And thank you very much for your patience with the review process even as we moved proof assistants.
